US04920116
N-(4-Fluorophenyl)-2-[(2-phenylethyl)(phenylmethyl)amino]acetamide
In a manner similar to Preparation 1 react 4-fluorobenzenamine with chloroacetyl chloride followed by N-(phenylmethyl)benzeneethanamine to obtain the title compound.

reactant | 4-fluorobenzenamine | FC1=CC=C(C=C1)N | C6H6FN
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | N-(phenylmethyl)benzeneethanamine | C1(=CC=CC=C1)CNCCC1=CC=CC=C1 | C15H17N
product | N-(4-Fluorophenyl)-2-[(2-phenylethyl)(phenylmethyl)amino]acetamide | FC1=CC=C(C=C1)NC(CN(CC1=CC=CC=C1)CCC1=CC=CC=C1)=O | C23H23FN2O
